US08193349B2
To a solution of (2,2-dichloro-3-oxo-cyclobutyl)-acetic acid methyl ester (2.93 g, 13.8 mmol) in AcOH (100 ml), zinc powder (4.51 g, 69.0 mmol) is added. The mixture is stirred at 100° C. for 15 hours. The mixture is filtrated and washed with AcOH. The filtrate is concentrated under reduced pressure, and the residue is dissolved in AcOEt, and washed with saturated aqueous NaHCO3 and brine. The organic layer is dried over MgSO4, and concentrated under reduced pressure to give (3-oxo-cyclobutyl)-acetic acid methyl ester (710 mg, 36%); 1H NMR (400 MHz, chloroform-d) δ ppm 2.64-2.66 (m, 2H), 2.78-2.86 (m, 3H), 3.22-3.32 (m, 2H), 3.70 (s, 3H).

reactant | (2,2-dichloro-3-oxo-cyclobutyl)-acetic acid methyl ester | 13.8 mmol, 2.93 g | COC(CC1C(C(C1)=O)(Cl)Cl)=O | C7H8Cl2O3
solvent | AcOH | 100 ml | CC(=O)O | C2H4O2
catalyst | zinc | 69.0 mmol, 4.51 g | [Zn] | Zn
product | (3-oxo-cyclobutyl)-acetic acid methyl ester | 710 mg, 36% | COC(CC1CC(C1)=O)=O | C7H10O3
